US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]-3-fluoroimidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
A mixed solution of N-[3-fluoro-6-(2-fluoro-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (15.2 mg, 0.041 mmol), reduced iron (12.1 mg, 0.205 mmol) and ammonium chloride (21.9 mg, 0.41 mmol) in ethanol (1 mL) and water (0.2 mL) was stirred at 90° C. for 5 hr. The reaction mixture was diluted with ethyl acetate and saturated aqueous ammonium chloride solution and extracted twice with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. To a solution of the obtained residue and 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (12.2 mg, 0.0492 mmol) in N,N-dimethylformamide (1 mL) were added N,N-diisopropylethylamine (14 μL, 0.082 mmol) and HATU (18.7 mg, 0.0492 mmol), and the mixture was stirred at room temperature for 17 hr. Ethyl acetate and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=2/1→ethyl acetate alone) to give a white solid. The obtained solid was washed with ethyl acetate and collected by filtration to give the title compound (8 mg, 34%) as a white solid.

reactant | N-[3-fluoro-6-(2-fluoro-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.041 mmol, 15.2 mg | FC1=C(N=C2N1C=C(C=C2)OC2=C(C=C(C=C2)[N+](=O)[O-])F)NC(=O)C2CC2 | C17H12F2N4O4
reactant | 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.0492 mmol, 12.2 mg | FC1=CC=C(C=C1)N1C(C(=CC=C1C)C(=O)O)=O | C13H10FNO3
reactant | N,N-diisopropylethylamine | 0.082 mmol, 14 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.0492 mmol, 18.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | water | 0.2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ammonium chloride | 0.41 mmol, 21.9 mg | [Cl-].[NH4+]
product | N-[4-({2-[(cyclopropylcarbonyl)amino]-3-fluoroimidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 8 mg, 34% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC=C(C=C2)F)=O)F)C1F | C30H22F3N5O4
